US05866573
Step C: 3,5-Dichloro-6-methyl-1-carboxymethylpyrazinone
Ruthenium trichloride hydrate (114 mg, 0.547 mmol) was added to a stirred mixture of 1-allyl-3,5-dichloro-6-methylpyrazinone (5.45 g, 24.98 mmol) and sodium periodate (21.82 g, 0.102 mol) in water (75 ml), acetonitrile (50 ml) and carbon tetrachloride (50 ml). After 3 h the reaction mixture was extracted with methylene chloride (4 times) and the combined extracts were dried (Na2SO4) and evaporated in vacuo to a syrup. The 1H NMR (CDCl3) of this material showed it to be a 1:1 mixture of the acid and the aldehyde. The crude mixture was dissolved in acetone (50 ml) and Jones Reagent (2.7M) was added until the reaction remained orange. The reaction was then extracted into ethyl acetate which was then washed with brine, dried (Na2SO4) and evaporated in vacuo to give the title compound as a tan solid:

reactant | 1-allyl-3,5-dichloro-6-methylpyrazinone | 24.98 mmol, 5.45 g | C(C=C)N1C(C(=NC(=C1C)Cl)Cl)=O | C8H8Cl2N2O
reactant | sodium periodate | 0.102 mol, 21.82 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 75 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Ruthenium trichloride hydrate | 0.547 mmol, 114 mg | O.[Ru](Cl)(Cl)Cl
product | 3,5-Dichloro-6-methyl-1-carboxymethylpyrazinone | ClC=1C(N(C(=C(N1)Cl)C)CC(=O)O)=O | C7H6Cl2N2O3
